US04714492
1.38 gms of 1-ethyl-2,6-diphenyl-4-oxonicotinic acid was treated with 0.19 gms of NaOH in 50 mls of dry methanol. Evaporation of the solvent provided 1.40 gms of sodium 1-ethyl-2,6-diphenyl-4-oxonicotinate as a glassy solid.

reactant | 1-ethyl-2,6-diphenyl-4-oxonicotinic acid | 1.38 gms | C(C)N1C(=C(C(=O)O)C(C=C1C1=CC=CC=C1)=O)C1=CC=CC=C1 | C20H17NO3
reactant | NaOH | 0.19 gms | [OH-].[Na+]
solvent | methanol | 50 mls | CO | CH4O
product | sodium 1-ethyl-2,6-diphenyl-4-oxonicotinate | 1.40 gms | C(C)N1C(=C(C(=O)[O-])C(C=C1C1=CC=CC=C1)=O)C1=CC=CC=C1.[Na+] | InChI=1S/C20H17NO3.Na/c1-2-21-16(14-9-5-3-6-10-14)13-17(22)18(20(23)24)19(21)15-11-7-4-8-12-15;/h3-13H,2H2,1H3,(H,23,24);/q;+1/p-1
